US04904680
Synthesis of N-(α,α-dimethylbenzyl)-3-aminopropionamide
1.5 g of palladium-on-carbon were suspended in a solution of 4.51 g of N-(α,α-dimethylbenzyl)-3-(benzyloxycarbonylamino)propionamide (prepared as described in Preparation 2) in 110 ml of an 8:2:1 by volume mixture in methanol, acetic acid and water, and then hydrogen was passed through the solution for 4 hours at room temperature under normal atmospheric pressure. Undissolved materials were filtered off, the pH was adjusted to a value of 10 by the addition of a 10% w/v aqueous solution of sodium hydroxide, and then the mixture was extracted with 150 ml of ethyl acetate. The solution was washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated by evaporation under reduced pressure to give 2.3 g of the title compound as an oil.

reactant | N-(α,α-dimethylbenzyl)-3-(benzyloxycarbonylamino)propionamide | 4.51 g | CC(C1=CC=CC=C1)(C)NC(CCNC(=O)OCC1=CC=CC=C1)=O | C20H24N2O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium-on-carbon | 1.5 g | [Pd] | Pd
product | N-(α,α-dimethylbenzyl)-3-aminopropionamide | 2.3 g | CC(C1=CC=CC=C1)(C)NC(CCN)=O | C12H18N2O
